US09278950B2
Step 2. Benzyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate
To a solution of benzyl [(3S)-1-(3-nitropyridin-4-yl)piperidin-3-yl]carbamate (2.96 g, 8.30 mmol) in AcOH (36.00 mL, 633.2 mmol), iron powder (2.703 g, 48.40 mmol) was added followed by water (5.00 mL, 278 mmol). After stirring at room temperature for 2 h, the reaction mixture was concentrated under reduced pressure. EtOAc (100 mL) was added to the resulting residue. The mixture was filtered through a pad of diatomaceous earth (CELITE®). The diatomaceous earth pad was washed with a 10 wt % aq. K3PO4 (150 mL) and EtOAc (100 mL). The organic layer was washed with brine (150 mL), dried over Na2SO4 and concentrated. The resulting residue was purified by flash chromatography on silica gel (0-20% MeOH in DCM) to give the sub-title compound as an off-white solid (2.24 g, 83%). LCMS calc. for C18H23N4O2 (M+H)+: m/z=327.2. found 327.2.

reactant | benzyl [(3S)-1-(3-nitropyridin-4-yl)piperidin-3-yl]carbamate | 8.30 mmol, 2.96 g | [N+](=O)([O-])C=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C18H20N4O4
reactant | AcOH | 633.2 mmol, 36.00 mL | CC(=O)O | C2H4O2
reactant | water | 278 mmol, 5.00 mL | O | H2O
catalyst | iron | 48.40 mmol, 2.703 g | [Fe] | Fe
product | Benzyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate | 2.24 g, 83% | NC=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C18H22N4O2
